US05650510
NaH (0.87 g, 80% dispersion in oil, 29.1 mmol) was washed three times with dry pentane, dried in vacuo, and then suspended in 60 mL of dry THF. A solution of 2-benzyloxymethyl-1,3-propanediol (5.70 g, 29.1 mmol) in 5 mL of THF was next added dropwise over 20 min. and the reaction mixture stirred at room temperature for 1.5 hrs. to give a white slurry. t-Butyldimethylsilylchloride (4.38 g, 29.1 mmol) was then added portionwise over 3 min. and the reaction mixture stirred at room temperature for 2 hours further. The mixture was next diluted with 150 mL of ethyl acetate and washed with 10% aqueous potassium carbonate and brine, dried over MgSO4, filtered, and concentrated to give a colorless oil. Purification by column chromatography on silica gel (ethyl acetate/hexanes) provided 7.41 g (82%) of 2-benzyloxymethyl-3-t-butyldimethylsiloxy-1-propanol as a clear, colorless liquid.

reactant | NaH | 29.1 mmol, 0.87 g | [H-].[Na+]
reactant | 2-benzyloxymethyl-1,3-propanediol | 29.1 mmol, 5.70 g | C(C1=CC=CC=C1)OCC(CO)CO | C11H16O3
reactant | t-Butyldimethylsilylchloride | 29.1 mmol, 4.38 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | pentane | CCCCC | C5H12
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxymethyl-3-t-butyldimethylsiloxy-1-propanol | 7.41 g, 82% | C(C1=CC=CC=C1)OCC(CO)CO[Si](C)(C)C(C)(C)C | C17H30O3Si
